US05358953
A solution of ethyl 2-aminobenzoate (3.17 g, 20 mmol) and 4-chloro-3-nitropyridine (2.8 ml) in ethanol (150 ml) was stirred at room temperature for 60 hours. The resulting precipitate was collected, washed with ethanol and dried to give ethyl 2-(3-nitro-4-pyridylamino)benzoate hydrochloride (3.9 g) as a yellow crystalline solid, m.p. 192°-205° C.

reactant | ethyl 2-aminobenzoate | 20 mmol, 3.17 g | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | 4-chloro-3-nitropyridine | 2.8 ml | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 2-(3-nitro-4-pyridylamino)benzoate hydrochloride | 3.9 g | Cl.[N+](=O)([O-])C=1C=NC=CC1NC1=C(C(=O)OCC)C=CC=C1 | InChI=1S/C14H13N3O4.ClH/c1-2-21-14(18)10-5-3-4-6-11(10)16-12-7-8-15-9-13(12)17(19)20;/h3-9H,2H2,1H3,(H,15,16);1H
